US07148229B2
A solution of 2-[5-(5-chloro-1,3-dimethyl-1H-pyrazole-4-sulfonylamino)-pyridin-2-yl]-malonic acid dibenzyl ester in ethyl acetate was treated with 10% palladium on carbon. The mixture was hydrogenolyzed at 25° C. under hydrogen at 1 atmosphere until no starting material remained. At this time, the reaction mixture was filtered through celite. The filtrate was concentrated in vacuo to afford [5-(5-chloro-1,3-dimethyl-1H-pyrazole-4-sulfonylamino)-pyridin-2-yl]-acetic acid (94%) as a colorless solid; LRMS for C12H13ClN4O4S (M+H)+ at m/z=345/347.

reactant | 2-[5-(5-chloro-1,3-dimethyl-1H-pyrazole-4-sulfonylamino)-pyridin-2-yl]-malonic acid dibenzyl ester | C(C1=CC=CC=C1)OC(C(C(=O)OCC1=CC=CC=C1)C1=NC=C(C=C1)NS(=O)(=O)C=1C(=NN(C1Cl)C)C)=O | C27H25ClN4O6S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | [Pd] | Pd
product | [5-(5-chloro-1,3-dimethyl-1H-pyrazole-4-sulfonylamino)-pyridin-2-yl]-acetic acid | 94% | ClC1=C(C(=NN1C)C)S(=O)(=O)NC=1C=CC(=NC1)CC(=O)O | C12H13ClN4O4S
